US06320078B1
7.78 g (48 mmole) of N,N′-carbonyldiimidazole were added to a 1,3-dimethyl-2-imidazolidinone (50 g) suspension including 11.45 g (40 mmole) of 4-[N-(pyridin-3-ylmethoxycarbonyl)aminomethyl]benzoic acid. After stirring at room temperature for 2 hours, 17.30 g (0.16 mole) of 1,2-phenylenediamine were added to the solution. After cooling to 2° C., 9.60 g (0.1 mole) of methanesulfonic acid were added dropwise. After stirring for 2 hours, water was added, and the deposited solid was collected by filtration. Purification was then carried out through silica gel column chromatography to obtain 10.83 g (yield: 72%) of N-(2-aminophenyl)-4-[N-(pyridin-3-ylmethoxycarbonyl)aminomethyl]benzamide.

reactant | 1,3-dimethyl-2-imidazolidinone | 50 g | CN1C(N(CC1)C)=O | C5H10N2O
reactant | 4-[N-(pyridin-3-ylmethoxycarbonyl)aminomethyl]benzoic acid | 40 mmole, 11.45 g | N1=CC(=CC=C1)COC(=O)NCC1=CC=C(C(=O)O)C=C1 | C15H14N2O4
reactant | 1,2-phenylenediamine | 0.16 mole, 17.30 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | methanesulfonic acid | 0.1 mole, 9.60 g | CS(=O)(=O)O | CH4O3S
solvent | water | O | H2O
product | N-(2-aminophenyl)-4-[N-(pyridin-3-ylmethoxycarbonyl)aminomethyl]benzamide | 10.83 g, yield: 72% | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)CNC(=O)OCC=1C=NC=CC1)=O | C21H20N4O3
